Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Short distance claudication right lower extremity.
 
Major Surgical or Invasive Procedure:
___: 
1. Retrograde catheterization of left common femoral artery.
2. Advancement of catheter into the aorta.
3. Angiogram of infrarenal abdominal aorta and iliac vessels.
4. Advancement of catheter across aortic bifurcation to
   right external iliac artery.
5. Unilateral right lower extremity arteriogram.

___:
Right lower extremity superficial femoral artery-to-posterior 
tibial bypass with nonreversed greater saphenous vein graft.

 
History of Present Illness:
___ with a history of PVD and previous right lower extremity 
angio with popliteal stent.  He now presents with worsening 
right lower extremity claudication. He tells me that he is 
unable to walk sufficiently long distances for work.
 
Past Medical History:
PMH: PVD, HTN, HL, alcoholism ___ sober), tobacco use, hip and 
thigh injury

PSH: prior RLE angio with popliteal stent

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: 98.1, 97.5, 58, 107/59, 14, 97RA
Gen: NAD, AOx3
CV: RRR, no m/r/g
Pulm: unlabored, CTAB
GI: soft, NTND
Ext: RLE wound c/d/i, no erythema/induration, feet warm b/l, 
pulses palable x 8
 
Pertinent Results:
___ 07:33AM BLOOD WBC-7.0 RBC-4.78 Hgb-13.9* Hct-43.7 
MCV-91 MCH-29.1 MCHC-31.8 RDW-12.8 Plt ___
___ 07:33AM BLOOD Glucose-90 UreaN-21* Creat-1.0 Na-140 
K-4.3 Cl-105 HCO3-29 AnGap-10
___ 07:33AM BLOOD ___ PTT-36.6* ___
___ 07:33AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
Patient was admitted to the vascular surgery service on ___ 
following angiogram for RLE claudication.  For full details of 
this procedure, please refer to the operative report.  This 
demonstrated occlusion of the popliteal artery and proximal 
tibial vessels, the anterior tibial and posterior tibial vessels 
across the ankle and into the foot.  Therefore, the patient was 
admitted for preoperative workup and plan to undergo RLE bypass. 
 

On ___, he underwent RLE bypass.  For full details of this 
procedure, please refer to the operative report. He tolerated 
the procedure well and returned to the floor in stable 
condition.  He was kept NPO following surgery, but his diet was 
advanced to regular on POD 1.  On the morning of POD 1, he was 
noted to have palpable pulses x 4.  He remained on bedrest until 
POD 2, at which time his foley was removed as well and he was 
able to void spontaneously.  He worked with physical therapy, 
who thought he would need additional acute ___ due to weakness 
with ambulation.  

He continued to ambulate and work with acute physical therapy.  
His pain was adequately controlled without narcotic medication, 
and on POD 6 he was deemed appropriate for discharge, with 
follow up in Dr. ___ 3 weeks from his surgery.

 
Medications on Admission:
lisinopril 40', simvastatin 40', ibuprofen 800'', tramadol 
100'''', benadryl prn
 
Discharge Medications:
1. Ibuprofen 800 mg PO Q12H:PRN pain 
2. TraMADOL (Ultram) 100 mg PO Q6H:PRN pain 
3. Simvastatin 40 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Nicotine Patch 21 mg TD DAILY 
6. Aspirin 81 mg PO DAILY 
7. Senna 1 TAB PO BID:PRN constipation 
8. Docusate Sodium 100 mg PO BID 
9. Acetaminophen 1000 mg PO Q8H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Short distance claudication right lower extremity.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery Lower Extremity 
Bypass Surgery Discharge Instructions

What to expect when you go home:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 
Followup Instructions:
___